US08871792B2
(R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(3-methoxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic Acid Isopropoxycarbonyloxymethyl Ester
A mixture of (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(3-methoxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic acid (200 mg, 430 mmol), chloromethyl isopropyl carbonate (132 mg, 860 mmol), NaI (129 mg, 860 μmol) and pyridine (136 mg, 1.7 mmol) in DMF (5.0 mL) was stirred at 25° C. overnight. The mixture was then poured into water (30 mL) and extracted with EtOAc (3×20 mL). The combined organic layers were washed with saturated aqueous NaCl (30 mL), dried over anhydrous Na2SO4, and concentrated in vacuo. The residue was purified by column chromatography (PE:EtOAc=1:1) to yield the title compound as a colorless liquid (10 mg). LC-MS: 580 [M+H]+. 1H NMR (400 MHz, CD3OD): δ 1.28 (d, J=6 Hz, 6H), 3.37-3.39 (m, 2H), 3.98 (s, 3H), 4.22-4.24 (m, 2H), 4.38-4.40 (m, 1H), 5.78-5.91 (m, 2H), 6.54 (s, 1H), 7.22-7.18 (t, J=9 Hz, 1H), 7.34-7.36 (m, 1H), 7.46-7.55 (m, 5H).

reactant | (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(3-methoxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic acid | 430 mmol, 200 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)CN(NC(=O)C1=CC(=NO1)OC)C[C@H](C(=O)O)O)F | C21H19ClFN3O6
reactant | chloromethyl isopropyl carbonate | 860 mmol, 132 mg | C(OCCl)(OC(C)C)=O | C5H9ClO3
reactant | NaI | 860 μmol, 129 mg | [Na+].[I-]
reactant | pyridine | 1.7 mmol, 136 mg | N1=CC=CC=C1 | C5H5N
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | water | 30 mL | O | H2O
product | (R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(3-methoxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic Acid Isopropoxycarbonyloxymethyl Ester | 10 mg | C(C)(C)OC(=O)OCOC([C@@H](CN(NC(=O)C1=CC(=NO1)OC)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)O)=O | C26H27ClFN3O9
